US06060468
A mixture of 11-bromomethyl-11H-dibenz[b,f][1,4]oxathiepine (6.15 g, 20 mmol, prepared similarly as described in Coll. Czech. Chem. Commun. 50, 1484, 1985), (R)-3-piperidinecarboxylic acid ethyl ester tartrate (4.7 g, 30 mmol) and chloroform (10 ml) was warmed to achieve dissolution. The solution was then allowed to stand for 1 week at room temperature, and was subsequently heated at reflux temperature for 7 h. After cooling, the mixture was diluted with benzene and washed with 5% ammonia. The organic phase was dried (potassium carbonate) and evaporated. The residue was purified by column chromatography on silica gel (55 g) using first benzene and then diethyl ether as eluents to give 4.1 g (53%) of (R)-1-(11H-dibenz[b,f][1,4]oxathiepin-11-ylmethyl)-3-piperidinecarboxylic acid ethyl ester as an oil.

reactant | 11-bromomethyl-11H-dibenz[b,f][1,4]oxathiepine | BrCC1SC2=C(OC3=C1C=CC=C3)C=CC=C2 | C14H11BrOS
reactant | (R)-3-piperidinecarboxylic acid ethyl ester tartrate | 30 mmol, 4.7 g | C(=O)(O)C(O)C(O)C(=O)O.C(C)OC(=O)[C@H]1CNCCC1
reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (R)-1-(11H-dibenz[b,f][1,4]oxathiepin-11-ylmethyl)-3-piperidinecarboxylic acid ethyl ester | 4.1 g, 53% | C(C)OC(=O)[C@H]1CN(CCC1)CC1SC2=C(OC3=C1C=CC=C3)C=CC=C2 | C22H25NO3S
